US04515955
2-[(3-iminoisoindol-1-yl)methylene]-3-carboxyethyl benzothiazolium bromide
Three grams (0.02 mole) of 1,3-diiminoisoindoline was dissolved in 25 ml of warm water. Three grams (0.01 mole) of 2-methyl-3-carboxyethyl benzothiazolium bromide was added to the solution. A molar excess of 1,3-diiminoisoindoline was employed to avoid bis substitution. The solution was stirred and heated on a steam bath for 10 minutes. An orange solid separated from the solution. The solution was then cooled and the solid collected by filtration. The dye was redissolved in hot water with the aid of sodium hydroxide. The solution was filtered, and the filtrate was acidified with excess acetic acid to reprecipitate the dye. The dye was washed with water and methanol and vacuum dried at 70° C.

reactant | 1,3-diiminoisoindoline | 0.02 mole, Three grams | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-methyl-3-carboxyethyl benzothiazolium bromide | 0.01 mole, Three grams | [Br-].CC=1SC2=C([N+]1CCC(=O)O)C=CC=C2
solvent | water | 25 ml | O | H2O
product | 2-[(3-iminoisoindol-1-yl)methylene]-3-carboxyethyl benzothiazolium bromide | [Br-].N=C1N=C(C2=CC=CC=C12)C=C1SC2=C([NH+]1CCC(=O)O)C=CC=C2 | InChI=1S/C19H15N3O2S.BrH/c20-19-13-6-2-1-5-12(13)14(21-19)11-17-22(10-9-18(23)24)15-7-3-4-8-16(15)25-17;/h1-8,11,20H,9-10H2,(H,23,24);1H
